US04794184
Step 1: Preparation of 3-[N,N-Bis(3-methyl-2-buten-1-yl)aminophenol Hydrochloride (1)
To a two-liter four-necked round-bottomed flask equipped with a nitrogen inlet, temperature probe, mechanical stirrer and a 500 mL pressure equalizing dropping funnel with an attached condenser, was added 350 mL of N,N-dimethylformamide (DMF), m-aminophenol (109.1 gm, 1.0 mole) and calcium carbonate (50 gm, 0.5 mole). The mixture was heated with a heating mantle to 65° C. and the addition funnel was charged with 1-chloro-3-methyl2-butene (214 gm, 2.05 mole). The 1-chloro-3-methyl-2-butene was added over 15 minutes with vigorous stirring.

reactant | m-aminophenol | 1.0 mole, 109.1 gm | NC=1C=C(C=CC1)O | C6H7NO
reactant | calcium carbonate | 0.5 mole, 50 gm | C([O-])([O-])=O.[Ca+2]
reactant | 1-chloro-3-methyl2-butene | 2.05 mole, 214 gm | ClCC=C(C)C | C5H9Cl
solvent | N,N-dimethylformamide | 350 mL | CN(C=O)C | C3H7NO
product | N,N-Bis(3-methyl-2-buten-1-yl)aminophenol Hydrochloride | Cl.CC(=CCN(CC=C(C)C)C1=C(C=CC=C1)O)C | InChI=1S/C16H23NO.ClH/c1-13(2)9-11-17(12-10-14(3)4)15-7-5-6-8-16(15)18;/h5-10,18H,11-12H2,1-4H3;1H
